US08222249B2
3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (1.11 g, 3.0 mmol) and 1,1′-Carbonyldiimidazole (535 mg, 3.3 mmol) were suspended in dry DMF (20 mL) and the mixture was stirred at rt for 24 h. While stirring, a portion of the reaction mixture (6.7 mL, ˜1 mmol) was transferred to a vial containing 3-(Pyridin-2-yloxy)-phenylamine (205 mg, 1.1 mmol). The resulting mixture was stirred at rt overnight and the reaction progress was monitored by LCMS. After 48 h, additional 3-(Pyridin-2-yloxy)-phenylamine (37 mg, 0.2 mmol) was transferred to the reaction mixture and stirring continued for another 24 h. The reaction mixture was acidified with acidic acid and water. The volatiles were removed in vacuo and the residue was dissolved in DMF and purified using C-18 preparatory HPLC to give 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindo1-5-ylmethyl]-3-[3-(pyridin-2-yloxy)-phenyl]-urea as a white solid (310 mg, 64% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 ml/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 4.81 min (98.6%); mp: 298-300° C.; 1H NMR (DMSO-d6) δ 1.84-2.06 (m, 1H, CHH), 2.19-2.44 (m, 1H, CHH), 2.54-2.68 (m, 1H, CHH), 2.79-3.05 (m, 1H, CHH), 4.08-4.60 (m, 4H, CH2, CH2), 5.10 (dd, J=5.1, 13.2 Hz, 1H, CH), 6.64 (dd, J=1.4. 8.0 Hz, 1H, Ar), 6.81 (t, J=5.9 Hz, 1H, NH), 6.99 (d, J=8.3 Hz, 1H, Ar), 7.07-7.18 (m, 2H, Ar), 7.24 (t, J=8.1 Hz, 1H, Ar), 7.33 (t, J=2.1 Hz, 1H, Ar), 7.43 (d, J=7.7 Hz, 1H, Ar), 7.50 (s, 1H, Ar), 7.68 (d, J=7.7 Hz, 1H, Ar), 7.78-7.97 (m, 1H, Ar), 8.16 (dd, J=1.5, 4.9 Hz, 1H, Ar), 8.82 (s, 1H, NH), 10.97 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.49, 31.18, 42.73, 47.12, 51.56, 110.23, 111.51, 113.54, 113.68, 118.99, 121.85, 122.93, 126.86, 129.56, 130.29, 140.10, 141.79, 142.39, 144.77, 147.52, 154.37, 155.09, 163.03, 167.93, 170.99, 172.85; LCMS: MH=486; Anal Calcd for C26H23N5O5+0.3 H2O: C, 63.61; H, 4.85; N, 14.27. Found: C, 63.62; H, 4.62; N, 14.18.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 3.0 mmol, 1.11 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 1,1′-Carbonyldiimidazole | 3.3 mmol, 535 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(Pyridin-2-yloxy)-phenylamine | 1.1 mmol, 205 mg | N1=C(C=CC=C1)OC=1C=C(C=CC1)N | C11H10N2O
reactant | 3-(Pyridin-2-yloxy)-phenylamine | 0.2 mmol, 37 mg | N1=C(C=CC=C1)OC=1C=C(C=CC1)N | C11H10N2O
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindo1-5-ylmethyl]-3-[3-(pyridin-2-yloxy)-phenyl]-urea | 310 mg, 64% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)NC1=CC(=CC=C1)OC1=NC=CC=C1)=O)=O | C26H23N5O5
